### PR TITLE
[Merged by Bors] - chore: cleanups following #23778

### PR DESCRIPTION
**Pull request by alreadydone**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean [hunk 1]
```diff
@@ -243,13 +222,13 @@ lemma Ideal.height_le_spanFinrank (I : Ideal R) (hI : I ≠ ⊤) :
 
 lemma Ideal.height_le_spanRank (I : Ideal R) (hI : I ≠ ⊤) :
     I.height ≤ I.spanRank := by
-  apply le_trans (b := ((Cardinal.toENat I.spanRank) : Cardinal))
+  apply le_trans (b := (I.spanRank.toENat : Cardinal))
   · norm_cast
     exact I.height_le_spanRank_toENat hI
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/KrullsHeightTheorem.lean:227]:
```suggestion
  transitivity ↑I.spanRank.toENat
  · exact_mod_cast I.height_le_spanRank_toENat hI
```

File: Mathlib/RingTheory/Ideal/Operations.lean [hunk 2]
```diff
@@ -1272,17 +1272,14 @@ instance {R} [Semiring R] : NonUnitalSubsemiringClass (Ideal R) R where
   mul_mem _ hb := Ideal.mul_mem_left _ _ hb
 instance {R} [Ring R] : NonUnitalSubringClass (Ideal R) R where
 
-lemma Ideal.exists_subset_radical_span_sup_span_of_subset_radical_sup {R : Type*} [CommSemiring R]
+lemma Ideal.exists_subset_radical_span_sup_of_subset_radical_sup {R : Type*} [CommSemiring R]
     (s : Set R) (I J : Ideal R) (hs : s ⊆ (I ⊔ J).radical) :
-    ∃ (t₁ t₂ : s → R), Set.range t₁ ⊆ I ∧ Set.range t₂ ⊆ J ∧
-      s ⊆ (span (Set.range t₁) ⊔ span (Set.range t₂)).radical := by
+    ∃ (t : s → R), Set.range t ⊆ I ∧ s ⊆ (span (Set.range t) ⊔ J).radical := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Operations.lean:1277]: Why is this changed? I don't think this is more general?

Comment (alreadydone) [reply Mathlib/RingTheory/Ideal/Operations.lean:1277]: It's a technical lemma extracted from the proof of `height_le_spanRank_toENat_of_mem_minimal_primes` by @chrisflav and [modified](https://github.com/leanprover-community/mathlib4/pull/23778/commits/d945aae72d33634db6f03545ba408931bb2b543d) by @xyzw12345 in #23778. We don't actually need to change J to `span (range _)` to make the proof work, and keeping J makes the proof simpler.

**Comment by riccardobrasca** [comment]
I don't have any opinion on the discussion above, so feel free to merge the version you think is better. Thanks!

bors d+

**Comment by alreadydone** [comment]
Thanks 🎉
bors r+
